*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXJ160ARA221MF80G
*//   Date        : 2023/11/09
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXJ160ARA221MF80G_20deg-C 1 2

C1 4 2 8.40e-05
C2 5 2 8.55e-05
C3 6 2 3.50e-05
R1 3 4 1.88e-02
R2 4 5 6.56e-02
R3 5 6 1.41e+00
L1 1 3 2.70e-09

.ENDS
*$
